US07687452B2
2-(3,3-Dimethylcyclohexyl)propionic acid ethoxycarbonylmethyl ester
A solution of triethyl 2-phosphonopropionate (79.8 g, 335 mmol) in 1,2-dimethoxy-ethane (70 ml) was added dropwise within 30 min to a stirred suspension of 95% NaH (7.54 g, 300 mmol) in 1,2-dimethoxyethane (350 ml). The reaction mixture was heated to reflux, and 3,3-dimethylcyclohexanone (63.0 g, 500 mmol) was added during a period of 5 min. After refluxing for 15 h, the reaction mixture was poured onto crushed ice (600 g), acidified to pH 5 by addition of AcOH (ca. 18 ml, 315 mmol), and extracted with Et2O (2×1 l). The combined organic extracts were washed with water and satd. aq. NaCl, dried (MgSO4), and concentrated on the rotary evaporator to provide the crude α,β-unsaturated ester (89.2 g). Distillation in vacuo afforded at 89-90° C./3 mbar ethyl 2-(3,3-dimethylcyclohexylidene)propionate (61.3 g, 97%). The ethyl 2-(3,3-dimethyl-cyclohexylidene)propionate (30.0 g, 143 mmol) was dissolved in EtOH/water (1:1, 300 ml), and NaOH (28.6 g, 715 mmol) was added with stirring. After heating to reflux for 5 h, the EtOH was distilled off, and the reaction mixture was diluted with water (500 ml) prior to extraction. The ethereal washings were discarded, the aq. solution acidified with conc. H3PO4 and extracted with Et2O (3×700 ml). The combined organic extracts were dried (MgSO4), and the solvent was evaporated on a rotary evaporator to furnish 2-(3,3-dimethylcyclohexylidene)propionic acid (24.6 g, 95%) sufficiently pure for further transformations. At 0° C., this crude 2-(3,3-dimethylcyclohexylidene)propionic acid (3.00 g, 16.5 mmol) was dissolved in CH2Cl2 (40 ml) and treated with ethyl glycolate (1.71 g, 16.4 mmol). Then, 4-dimethylaminopyridine (2.01 g, 16.5 mmol) was added at 0° C., and after stirring at this temperature for 5 min. a solution of 1,3-dicyclohexylcarbodiimide (3.74 g, 18.1 mmol) in CH2Cl2 (20 ml) was added dropwise. The cooling bath was removed, and stirring was continued at room temperature for 15 h before separating the precipitates by vacuum filtration. The precipitate was washed with CH2Cl2 (100 ml), and the combined filtrates were concentrated on the rotary evaporator. The crude product (7.55 g) was purified by silica-gel FC (pentane/Et2O, 19:1) to provide 2-(3,3-dimethyl-cyclohexylidene)propionic acid ethoxycarbonylmethyl ester (3.96 g, 90%) as a colorless liquid of very weak odor. Pd 10% on activated carbon (0.10 g, 0.094 mmol) was added to a stirred solution of this 2-(3,3-dimethylcyclohexylidene)propionic acid ethoxycarbonylmethyl ester (1.00 g, 3.73 mmol) in EtOAc (10 ml). After two cycles of evacuating the reaction flask and flushing with N2, the flask was evacuated again and flushed with H2. After stirring in an H2 atmosphere for 1 day, the reaction flask was again twice evacuated and flushed with N2. The catalyst was separated by vacuum filtration over a pad of Celite® and washed with EtOAc (100 ml) to provide the crude material (1.02 g), which was purified by Kugelrohr-distillation to furnish at 75-85° C./0.04 mbar the odoriferous title compound 2-(3,3-dimethylcyclohexyl)propionic acid ethoxycarbonylmethyl ester (0.96 g, 96%).

reactant | 2-(3,3-dimethylcyclohexylidene)propionic acid ethoxycarbonylmethyl ester | 3.73 mmol, 1.00 g | C(C)OC(=O)COC(C(C)=C1CC(CCC1)(C)C)=O | C15H24O4
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd | [Pd] | Pd
product | 2-(3,3-dimethylcyclohexyl)propionic acid ethoxycarbonylmethyl ester | 0.96 g, 96% | C(C)OC(=O)COC(C(C)C1CC(CCC1)(C)C)=O | C15H26O4
